US07919468B2
Z-Trp-NHCH2Ph:
Same procedure as above with Z-Trp-OH (2 g, 5.9 mmol), benzylamine (645 μL, 5.9 mmol), DCC (1.58 g, 7.65 mmol) and THF (88 mL). A white solid was obtained after precipitation in methanol/pentane (777 mg, 31%). 1H NMR (300 MHz, CDCl3) δ 3.18 (dd, J=14.3 Hz, J=8.1 Hz, 1H, CH2), 3.39 (dd, J=14.3 Hz, J=4.9 Hz, 1H, CH2), 4.3 (m (AB), 2H, CH2 (Bn)), 4.53 (m, 1H, CHα), 5.11 (s, 2H, CH2 (Z)), 5.52 (m, 1H, NH), 5.90 (m, 1H, NH), 6.91-7.70 (m, 15 aromatic H), 8.01 (s, 1H, NH indole). 13C NMR (75 MHz, CDCl3) δ 28.7 (CH2 Trp), 43.4 (CH2), 56.1 (CHα), 67 (CH2 (Z)), 111.2, 118.7, 119.7, 122.2, 123.2, 123.4, 127.2, 127.3, 127.6, 128, 128.2, 128.5, 136.1, 136.2, 137.5, 137.6 (20 aromatic C), 156 (CO carbamate), 171.2 (CO amide). Anal. Calcd. for C26H25N3O3, 0.75H2O: C, 70.81; H, 6.06; N, 9.53. Found: C, 70.84; H, 6.80; N, 9.21.

reactant | Z-Trp-OH | 5.9 mmol, 2 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | benzylamine | 5.9 mmol, 645 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | DCC | 7.65 mmol, 1.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 88 mL | C1CCOC1 | C4H8O
product | Z-Trp-NHCH2Ph | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H25N3O3
